US20010014737A1
c) 3-[N-(tert-Butoxycarbonyl)-N-(4-trifluoromethylbenzyl)aminomethyl]-4-bromoanisole
To a stirred solution of 3-[N-(4-trifluoromethylbenzyl)aminomethyl]-4-bromoanisole (34.17 g, 91 mmol) in dry THF (100 mL) was added di-tert-butyl dicarbonate (22 g, 101 mmol). The reaction was stirred under argon for 18 h (vigorous gas evolution was observed). Concentration and silica gel chromatography (5 to 10% EtOAc/hexane) gave the title compound (41.09 g, 95%) as a clear oil:TLC (silica, 20% EtOAc/hexane) Rf 0.44; 1 H NMR (400 MHz, CDCl3) δ7.57 (d, J=8.3 Hz, 2 H), 7.40 (d, J=8.3 Hz, 2 H), 7.39-7.33 (m, 2 H), 6.83 and 6.72 (2 s, 1 H), 6.71 (dd, 1 H), 4.54 and 4.50 (2 s, 2 H), 4.43 (s, 2 H), 3.75 (s, 3 H), 1.47 (s, 9 H).

reactant | 3-[N-(4-trifluoromethylbenzyl)aminomethyl]-4-bromoanisole | 91 mmol, 34.17 g | FC(C1=CC=C(CNCC=2C=C(C=CC2Br)OC)C=C1)(F)F | C16H15BrF3NO
reactant | di-tert-butyl dicarbonate | 101 mmol, 22 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 3-[N-(tert-Butoxycarbonyl)-N-(4-trifluoromethylbenzyl)aminomethyl]-4-bromoanisole | 41.09 g, 95% | C(C)(C)(C)OC(=O)N(CC1=CC=C(C=C1)C(F)(F)F)CC=1C=C(C=CC1Br)OC | C21H23BrF3NO3
